US05188759
1-(2-Fluoroethynyl)-4-(trans-4-pentylcyclohexyl)benzene
110 ml of 1 molar solution of tetrabutylammonium fluoride in dichloromethane are added at 0° C. to a solution of 28.85 g (0.1 mol) of 1-(2-chloroethynyl)-4-(trans-4-pentylcyclohexyl)benzene in 150 ml of dichloromethane. The reaction mixture is boiled for 24 hours and evaporated in vacuo, and the residue is then extracted with 3×150 ml of petroleum ether (30°-50° C.). The combined petroleum ether phases are dried over magnesium sulphate and evaporated. The product is obtained from the resultant residue by chromatography using petroleum ether as eluent.

reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 1-(2-chloroethynyl)-4-(trans-4-pentylcyclohexyl)benzene | 0.1 mol, 28.85 g | ClC#CC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC | C19H25Cl
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 1-(2-Fluoroethynyl)-4-(trans-4-pentylcyclohexyl)benzene | FC#CC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCCCC | C19H25F
